US09340547B2
a) (S)-tert-Butyl 1-(2-((5-methylisoxazol-3-yl)methylcarbamoyl)-1H-pyrrol-1-ylamino)-1-oxopropan-2-ylcarbamate
The title compound was prepared from (S)-methyl 1-(2-(tert-butoxycarbonylamino)propanamido)-1H-pyrrole-2-carboxylate (750 mg, 2.41 mmol) and (5-methylisoxazol-3-yl)methanamine bromhydrate (698 mg, 3.62 mmol) following the experimental procedure described in Preparation 27a. 613 mg (63% yield) of the desired compound were obtained.

reactant | (S)-methyl 1-(2-(tert-butoxycarbonylamino)propanamido)-1H-pyrrole-2-carboxylate | 2.41 mmol, 750 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)NN1C(=CC=C1)C(=O)OC)C | C14H21N3O5
reactant | (5-methylisoxazol-3-yl)methanamine | 3.62 mmol, 698 mg | CC1=CC(=NO1)CN | C5H8N2O
product | (S)-tert-Butyl 1-(2-((5-methylisoxazol-3-yl)methylcarbamoyl)-1H-pyrrol-1-ylamino)-1-oxopropan-2-ylcarbamate | 613 mg, 63% yield | CC1=CC(=NO1)CNC(=O)C=1N(C=CC1)NC([C@H](C)NC(OC(C)(C)C)=O)=O | C18H25N5O5
